US08426449B2
Step 1: {3-[2-(Indan-2-ylaminomethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester
To 2-aminoindan hydrochloride (0.253 g, 1.49 mmol) in MeOH (2 mL) was added sodium acetate (0.122 g, 1.49 mmol), and the mixture was heated with a heating gun for 2 minutes. [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester (0.420 g, 1.24 mmol) in MeOH was added, followed by sodium cyanoborohydride (0.140 g, 2.23 mmol), and the reaction was stirred at room temperature for 2 hours and at 50° C. for 2 hours. After cooling to room temperature, the mixture was partitioned between EtOAc and saturated aqueous NaHCO3, and the aqueous layer was separated and extracted twice with EtOAc. The combined organic layers were dried and concentrated to give the title compound.

reactant | 2-aminoindan hydrochloride | 1.49 mmol, 0.253 g | Cl.NC1CC2=CC=CC=C2C1
reactant | sodium acetate | 1.49 mmol, 0.122 g | C(C)(=O)[O-].[Na+]
reactant | [3-(2-Formyl-4-trifluoromethyl-phenoxy)-phenyl]-acetic acid methyl ester | 1.24 mmol, 0.420 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H13F3O4
reactant | sodium cyanoborohydride | 2.23 mmol, 0.140 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 2 mL | CO | CH4O
product | {3-[2-(Indan-2-ylaminomethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CNC1CC2=CC=CC=C2C1)=O | C26H24F3NO3
